US04833160
N-(2-hydroxyethyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-pyrrolidone
300 mg of N-2-(2-tetrahydropyranyloxy)ethyl-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-pyrrolidone was hydrolyzed with hydrochloric acid in methanol according to the procedure of Example 5 to give 150 mg of the title compound.

reactant | N-2-(2-tetrahydropyranyloxy)ethyl-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-pyrrolidone | 300 mg | O1C(CCCC1)OCCN1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C26H39NO4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | N-(2-hydroxyethyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-pyrrolidone | 150 mg | OCCN1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C21H31NO3
